US09340527B2
A mixture of methyl 1-(6-acetoxy-2-naphthoyl)piperidine-4-carboxylate (1 g, 2.814 mmol, 1.0 eq), K2CO3 (1.94 g, 14.07 mmol, 5.0 eq) in MeOH (20 mL) was stirred at room temperature for 2 h. The reaction was filtered. The filtrate was concentrated and the residue was purified by prep-HPLC (MeOH: 0.05% TFA/H2O=0-95%) to afford methyl 1-(6-hydroxy-2-naphthoyl)piperidine-4-carboxylate as a white solid (350 mg, yield: 40%). ESI-MS: 314.0 (M+H)+. 1HNMR (400 MHz, DMSO-d6) δ: 9.94 (s, 1H), 7.86-7.84 (m, 2H), 7.73 (d, 1H), 7.38 (d, 1H), 7.16-7.12 (m, 2H), 3.63 (s, 3H), 3.16-2.97 (m, 2H), 2.69-2.63 (m, 3H), 1.96-1.79 (m, 2H), 1.61-1.51 (m, 2H).

reactant | methyl 1-(6-acetoxy-2-naphthoyl)piperidine-4-carboxylate | 2.814 mmol, 1 g, 1.0 eq | C(C)(=O)OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)OC | C20H21NO5
reactant | K2CO3 | 14.07 mmol, 1.94 g, 5.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 1-(6-hydroxy-2-naphthoyl)piperidine-4-carboxylate | 350 mg, yield: 40% | OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)OC | C18H19NO4
